datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[C:11]1=[N:10]CC[NH:12]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2CC[NH+:12]=[C:11]2C)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC1=CC=C([P:10](C2=CC=C(C)C=C2)C2=CC=C(C)C=C2)C=C1.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>CC1=CC=C([P+:10](C2=CC=C(C)C=C2)(C2=CC=C(C)C=C2)[C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)C=C1 10=20
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.C1=C[C:14](=[N+:15]([O-:16])[O-:67])[CH:13]=[CH:12][C:11]1=[O:10]>>C1=CC=C([N:31]=[C:20]([O:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:67])C=C2)[O-:21])C=C1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"CC[O:72][C:61]([CH-:10][C:81](C)=[O:82])=[O:62].O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>CC[O:72][C:61]([CH:10]([CH:20]1[C:21](=[N+:22]([O-:23])[O-:33])[CH:42]=[C:43]([N+](=O)[O-])[S:44]1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10]C2=C(C=CC=C2)[N:12]1C.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:11]1=[N+:12](C)C2=C(C=CC=C2)[CH:10]1[C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
CN(C)C1=CC=C([P:10](C2=CC=C(N(C)C)C=C2)C2=CC=C(N(C)C)C=C2)C=C1.FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CN(C)C1=CC=C([P+:10](C2=CC=C(N(C)C)C=C2)(C2=CC=C(N(C)C)C=C2)[C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]2)C=C1 10=20
"C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2.C[NH:10]C>>C[NH+:10](C)[CH:20]1[C:21](C[N+]23CCN(CC2)CC3)=[C:22]([O-:23])O[C:32]2=[C:31]1[CH:36]=[CH:35][CH:34]=[CH:33]2 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[C:11]1=[N:10]CC[O:12]1>>C[C:11]1=[O+:12]CC[N:10]1[CH:20]([C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1 10,11=10,20;12=11,12;20,21=21"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C:11](C)=[CH2:10].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C+:11](C)[CH2:10][CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC(C)(C)C[O:62]2)S1.C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>CC1(C)C[O+:12]=[B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)[O:62]C1.CC1=CC=[C:10]([CH:20]([CH:21]=[C:22](C2=[N+](C)C=CN2C(C)(C)C)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;20,21=21"
CCCC[P:10](CCCC)CCCC.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CCCC[P+:10](CCCC)(CCCC)[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1 10=20
"CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2=[C:11]([O-:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])[CH:102]=[CH:103]1>>CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2([CH:20]([C:31]3=[CH:32][CH:33]=[C:34](N(C)C4=CC=CC=C4)[CH:35]=[CH:36]3)[C:41]3=[CH:42][CH:43]=[C:44](N(C)C4=CC=CC=C4)[CH:45]=[CH:46]3)[C:11](=[O:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])[CH:102]=[CH:103]1 10,11=10,20;12=11,12"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.CC(C)[P:10](C(C)C)C(C)C>>CC(C)[P+:10](C(C)C)(C(C)C)[CH:20]([C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:41]12C3C4C5C1[Fe:42]45321678C2C1C6C7C28 10=20
